US06642395B1
4) Preparation of (R)-2-(4-Chlorophenyl)-2-(1-methoxy-1-methylethyloxy)ethyl Methanesulfonate
Into methylene chloride (20 ml) were added (R)-2-(3-chlorophenyl)-2-(1-methoxy-1-methylethyloxy)ethanol obtained in 3) above (5.0 g) and triethylamine (3.9 g) and further, under ice-cooling and dropwise, methanesulfonyl chloride (2.46 g), and the resulting mixture was stirred at the same temperature for 1 hour. The reaction mixture was washed with water, and the organic layer was washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The desiccant was filtered off and the solvent was distilled off to obtain a colorless oily compound mentioned above (6.33 g, 96.0%). The optical purity of the product obtained was 99.9% e.e.

reactant | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
reactant | (R)-2-(3-chlorophenyl)-2-(1-methoxy-1-methylethyloxy)ethanol | ClC=1C=C(C=CC1)[C@H](CO)OC(C)(C)OC | C12H17ClO3
reactant | methanesulfonyl chloride | 2.46 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | triethylamine | 3.9 g | C(C)N(CC)CC | C6H15N
product | (R)-2-(4-Chlorophenyl)-2-(1-methoxy-1-methylethyloxy)ethyl Methanesulfonate | CS(=O)(=O)OC[C@H](OC(C)(C)OC)C1=CC=C(C=C1)Cl | C13H19ClO5S
